US08629158B2
d) 4-(Benzyloxy)-1-(5,6,7,8,9,10-hexahydro-7,10-iminocyclohept[b]indol-3-yl)pyridin-2(1H)-one hydrochloride
4-(Benzyloxy)-1-(5-tosyl-5,6,7,8,9,10-hexahydro-7,10-iminocyclohept[b]indol-3-yl)pyridin-2(1H)-one (130 mg, 0.24 mmol) and NaOH (594 mg, 14.8 mmol) were added to 1:1 MeOH/CH2Cl2 (20 mL) under N2, and the resulting suspension was stirred at reflux for 16 h. The reaction was cooled, H2O was added, and the resulting suspension was filtered. The obtained solid was purified by flash chromatography (silica gel, CH2Cl2/(9:1 MeOH/NH4OH), 100:0 to 80:20) afforded the free-base that was subsequently converted to the hydrochloride salt according to the procedure for Example 2 (step d) to provide the title compound (41 mg, 39%) as a white solid: mp 209-214° C.; 1H NMR (300 MHz, DMSO-d6) δ 11.39 (s, 1H), 9.54 (br s, 1H), 9.14 (d, J=9.8 Hz, 1H), 7.60 (d, J=8.4 Hz, 1H), 7.55 (d, J=7.6 Hz, 1H), 7.48-7.44 (m, 2H), 7.44-7.40 (m, 2H), 7.37 (dd, J=8.0, 8.0 Hz, 1H), 7.29 (d, J=1.8 Hz, 1H), 6.95-6.93 (dd, J=8.3, 1.8 Hz, 1H), 6.09-6.07 (dd, J=7.6, 2.6 Hz, 1H), 5.96 (d, J=2.7 Hz, 1H), 5.18 (br s, 1H), 5.14 (s, 2H), 4.40 (br m, 1H), 3.44-3.40 (dd, J=17.0, 4.0 Hz, 1H), 2.90 (d, J=17.0 Hz, 1H), 2.29-2.26 (m, 2H), 2.07-2.04 (m, 1H), 1.80-1.75 (m, 1H); ESI MS m/z 398 [M+H]+; HPLC (Method B)>99% (AUC), tR=12.7 min.

reactant | 4-(Benzyloxy)-1-(5-tosyl-5,6,7,8,9,10-hexahydro-7,10-iminocyclohept[b]indol-3-yl)pyridin-2(1H)-one | 0.24 mmol, 130 mg | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C2C3=C(N(C2=C1)S(=O)(=O)C1=CC=C(C)C=C1)CC1CCC3N1)=O | C32H29N3O4S
reactant | NaOH | 14.8 mmol, 594 mg | [OH-].[Na+]
reactant | MeOH CH2Cl2 | 20 mL | CO.C(Cl)Cl
solvent | H2O | O | H2O
product | 4-(Benzyloxy)-1-(5,6,7,8,9,10-hexahydro-7,10-iminocyclohept[b]indol-3-yl)pyridin-2(1H)-one hydrochloride | 41 mg, 39% | Cl.C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C2C3=C(NC2=C1)CC1CCC3N1)=O | InChI=1S/C25H23N3O2.ClH/c29-24-14-19(30-15-16-4-2-1-3-5-16)10-11-28(24)18-7-8-20-22(13-18)27-23-12-17-6-9-21(26-17)25(20)23;/h1-5,7-8,10-11,13-14,17,21,26-27H,6,9,12,15H2;1H
